US04404214
2.4 g of 6-n-butyl-2-pyridinecarboxylic acid, 15 ml of thionyl chloride and 0.97 g of 5-aminotetrazole are treated in the same manner as described in Example 1. The crude product thus obtained is recrystallized from a mixture of dimethylformamide and ethanol, whereby 0.97 g of N-(5-tetrazolyl)-6-n-butyl-2-pyridinecarboxamide is obtained.

reactant | 6-n-butyl-2-pyridinecarboxylic acid | 2.4 g | C(CCC)C1=CC=CC(=N1)C(=O)O | C10H13NO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-aminotetrazole | 0.97 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-6-n-butyl-2-pyridinecarboxamide | 0.97 g | N1N=NN=C1NC(=O)C1=NC(=CC=C1)CCCC | C11H14N6O
